* source PWM_COPY_SIM
Q_Q1         +VCC N18309 N18355 TIP31C
X_U6B         N17937 N18485 +VCC -VCC N183734 TL072/301/TI
Q_Q2         N18309 N18355 N18347 TIP31C
R_R5         N17859 N17929 R_R5 10k TC=0,0 
.model        R_R5 RES R=1 DEV=5% TC1=0 TC2=0
R_R15         N18509 N183734 R_R15 2.4k TC=0,0 
.model        R_R15 RES R=1 DEV=5% TC1=0 TC2=0
X_U6A         N17969 N181111 +VCC -VCC N17859 TL072/301/TI
X_R7         N18505 N18485 N18407 POT PARAMS: SET={DUTY_CYCLE_SET} VALUE=10K
R_R4         N181111 0 R_R4 1k TC=0,0 
.model        R_R4 RES R=1 DEV=5% TC1=0 TC2=0
V_V2         0 -VCC 15Vdc
R_R8         N18407 +VCC R_R8 33k TC=0,0 
.model        R_R8 RES R=1 DEV=5% TC1=0 TC2=0
X_R10         N185431 N18267 N18509 POT PARAMS: SET={AMPLITUDE_SET} VALUE=1k
R_RL         0 N18347 R_RL 20 TC=0,0 
.model        R_RL RES R=1 DEV=5% TC1=0 TC2=0
R_R1         N17937 N17969 R_R1 10k TC=0,0 
.model        R_R1 RES R=1 DEV=5% TC1=0 TC2=0
R_R2         N17969 N17859 R_R2 20k TC=0,0 
.model        R_R2 RES R=1 DEV=5% TC1=0 TC2=0
R_rgs         N18347 N18355 R_rgs 0.6 TC=0,0 
.model        R_rgs RES R=1 DEV=1% TC1=0 TC2=0
V_V1         +VCC 0 15Vdc
C_C1         N17937 N17929 C_C1 3.3n  TC=0,0 
.model        C_C1 CAP C=1 DEV=20% TC1=0 TC2=0 VC1=0 VC2=0
R_R16         0 N185431 R_R16 1k TC=0,0 
.model        R_R16 RES R=1 DEV=5% TC1=0 TC2=0
R_R3         N18167 0 R_R3 1k TC=0,0 
.model        R_R3 RES R=1 DEV=5% TC1=0 TC2=0
R_R9         -VCC N18505 R_R9 30k TC=0,0 
.model        R_R9 RES R=1 DEV=5% TC1=0 TC2=0
X_U4         N18267 N18347 +VCC -VCC N18309 LM675
X_U5B         N18167 N17929 +VCC -VCC N17937 TL072/301/TI
.PARAM  duty_cycle_set=0.5 amplitude_set=0.5
